US09102662B2
N-[5-(3,5-Difluoro-benzyl)-1H-indazol-3-yl]-2-fluoro-5-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-benzamide [(IA), R1=R2=R3=H, R=3,5-difluorophenyl, Ar=2-fluoro-5-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-phenyl] cpd. 123
N-[5-(3,5-Difluoro-benzyl)-1-trityl-1H-indazol-3-yl]-2-fluoro-5-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-benzamide (90 mg, 0.112 mmol) in DCM (1 mL) was treated with TFA (0.17 mL, 2.24 mmol). After two hours at room temperature, DCM was added (25 mL) and the organic phase was washed with aqueous NaHCO3, water and brine. Drying over sodium sulphate, evaporation and purification of the crude over silica gel (eluent: DCM, MeOH, 7N NH3 in MeOH 9:1:0.1) afforded 42 mg of title compound.

reactant | N-[5-(3,5-Difluoro-benzyl)-1-trityl-1H-indazol-3-yl]-2-fluoro-5-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-benzamide | 0.112 mmol, 90 mg | FC=1C=C(CC=2C=C3C(=NN(C3=CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)NC(C2=C(C=CC(=C2)C(=O)N2[C@@H](CCC2)CN2CCCC2)F)=O)C=C(C1)F | C50H44F3N5O2
reactant | TFA | 2.24 mmol, 0.17 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | N-[5-(3,5-Difluoro-benzyl)-1H-indazol-3-yl]-2-fluoro-5-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-benzamide | 42 mg | FC=1C=C(CC=2C=C3C(=NNC3=CC2)NC(C2=C(C=CC(=C2)C(=O)N2[C@@H](CCC2)CN2CCCC2)F)=O)C=C(C1)F | C31H30F3N5O2
